US04638068
Preparation of N-(1-cyano-1,2-dimethylpropyl)-2-(2-hydroxymethylanilino)maleimide
To o-aminobenzyl alcohol, (2 g, 0.0125 mol) and 3-bromo-α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetonitrile (2.7 g, 0.01 mol) is added absolute ethanol (100 ml) containing 3 g of 5 A pulverized sieves. The mixture is stirred for 20 hours at room temperature. The solvent is removed and the residue is purified through a silica gel dry column, eluant ether-hexane (2:1). Starting bromomaleimide is first recovered, followed by a bright yellow solid 1.89 g (60%), mp 39°-45° C. Anal. calcd. for C17H19N3O3 : C, 65.16; H, 6.11; N, 13.41. Found: C, 65.94; H, 6.21; N, 12.87.

reactant | o-aminobenzyl alcohol | 0.0125 mol, 2 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | 3-bromo-α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetonitrile | 0.01 mol, 2.7 g | BrC=1C(N(C(C1)=O)C(C#N)(C)C(C)C)=O | C10H11BrN2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(1-cyano-1,2-dimethylpropyl)-2-(2-hydroxymethylanilino)maleimide | C(#N)C(C(C)C)(C)N1C(C(=CC1=O)NC1=C(C=CC=C1)CO)=O | C17H19N3O3
